US09376383B2
Synthesis of ((R)-2-(2-(5-hydroxy-1H-indol-3-yl)acetamido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid) (Compound N-39):
In 24 mL vial, 5-hydroxyl indole-3-acetic acid (191 mg, 1.0 mmol), HATU (380 mg, 1 mmol) and N,N-diisopropyl-ethyl-amine (650 mg, 5 mmol) were mixed in THF (10 mL). The reaction mixture was stirred at room temperature for 30 minutes. S-trans, trans-Farnesyl-L-cysteine (325 mg, 1 mmol) was added to the reaction mixture. The reaction mixture was stirred at room temperature overnight. THF was removed by rotary evaporation. The resulting residue was dissolved in ethyl acetate (50 mL). The organic solution was washed with water (50 mL) and brain (50 mL), dried over Na2SO4, and concentrated to afford a crude mixture. The crude mixture was purified by preparative HPLC (210 mg, 42%) to yield Compound N-39. 1H-NMR (500 MHz, CD3OD): δ 1.49 (s, 9H), 1.56 (S, 3H), 1.85-1.98 (m, 6H), 2.62 (dd, J=8.0, 14.0 Hz, 1H), 2.80 (dd, J=4.5, 14.0 Hz, 1H), 2.88 (dd, J=7.0, 13.0 Hz, 1H), 2.98 (dd, J=8.5, 13.0 Hz, 1H), 3.55 (dd, J=6.5, 22.5 Hz, 2H), 4.49 (dd, J=5.0, 8.0 Hz, 1H), 4.98 (bs, 2H), 6.57 (d, J=8.5 Hz, 1H), 6.84 (s, 1H), 7.07 (d, J=6.5 Hz, 2H). 13C-NMR (125 MHz, CD3OD): δ 16.2, 17.8, 26.0, 27.3, 27.4, 27.8, 28.8, 30.2, 33.3, 33.8, 40.7, 40.9, 53.4, 103.7, 108.2, 112.7, 112.8, 121.5, 125.2, 125.5, 125.8, 129.3, 132.1, 133.0, 136.2, 140.5, 151.5, 173.9, 174.9; ES-MS: mass calcd for Chemical Formula: C28H38N2O4S 498.3 (M+). Found (M+1) m/z 499.2.

reactant | 5-hydroxyl indole-3-acetic acid | 1.0 mmol, 191 mg | OC=1C=C2C(=CNC2=CC1)CC(=O)O | C10H9NO3
reactant | HATU | 1 mmol, 380 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropyl-ethyl-amine | 5 mmol, 650 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trans-Farnesyl-L-cysteine | 1 mmol, 325 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-2-(2-(5-hydroxy-1H-indol-3-yl)acetamido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid | OC=1C=C2C(=CNC2=CC1)CC(=O)N[C@H](C(=O)O)CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C | C28H38N2O4S
